US07425568B2
2-(2,3-Dihydro-2-phenyl-benzo[1,4]dioxin-6-yloxy)5-trifluoromethylpyridine was prepared in the same way as 2-(2,3-dihydro-2-phenyl-benzo[1,4]dioxin-6-yloxy)-5-nitropyridine above from 2,3-dihydro-2-phenyl-benzo[1,4]dioxin-6-ol (80 mg) and 2-chloro-5-(trifluoromethyl)pyridine (64 mg). Yield is 50 mg and mp 104-110° C. 1H NMR (DMSO-d6) δ=4.15 (dd, J=8.3, 11.4Hz, 1H), 4.46 (dd, J=2.3, 11.4 Hz, 1H), 5.27 (dd, J=2.3, 8.3 Hz, 1H), 6.72 (dd, J=2.8, 8.8 Hz, 1H), 6.84 (d, J=2.8 Hz, 1H), 7.03 (d, J=8.8 Hz, 1H), 7.19 (d, J=8.8 Hz, 1H), 7.39-7.52 (m, 5H), 8.20 (dd, J=8.8, 2.6 Hz, 1H), 8.58 (d, J=2.6 Hz, 1H).

reactant | 2-(2,3-dihydro-2-phenyl-benzo[1,4]dioxin-6-yloxy)-5-nitropyridine | C1(=CC=CC=C1)C1COC2=C(O1)C=CC(=C2)OC2=NC=C(C=C2)[N+](=O)[O-] | C19H14N2O5
reactant | 2,3-dihydro-2-phenyl-benzo[1,4]dioxin-6-ol | 80 mg | C1(=CC=CC=C1)C1COC2=C(O1)C=CC(=C2)O | C14H12O3
reactant | 2-chloro-5-(trifluoromethyl)pyridine | 64 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
product | 2-(2,3-Dihydro-2-phenyl-benzo[1,4]dioxin-6-yloxy)5-trifluoromethylpyridine | C1(=CC=CC=C1)C1COC2=C(O1)C=CC(=C2)OC2=NC=C(C=C2)C(F)(F)F | C20H14F3NO3
